### ISSUE TITLE
Proof obligation for `C_transfer` in `src/Bluebell/Logic/JointCondition.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#133]
A proof in `src/Bluebell/Logic/JointCondition.lean` contains a `sorry`.

**🤖 AI Analysis:**
### Statement Explanation

This theorem, `C_transfer`, establishes a "change of variable" property for the joint conditioning modality `𝑪_`. It states that if you have two probability mass functions, `μ` on type `β` and `μ'` on type `β'`, and their supports are equivalent (witnessed by the bijection `f`), and the probabilities of corresponding elements are equal (witnessed by `h`), then a property `K` holding under `μ`-conditioning can be transferred to a corresponding property holding under `μ'`-conditioning.

-   **Hypotheses**:
    1.  `μ : PMF β` and `μ' : PMF β'`: Two probability mass functions.
    2.  `K : β → HyperAssertion ...`: A family of hyper-assertions indexed by outcomes of `μ`.
    3.  `f : μ'.support ≃ μ.support`: A bijection between the set of outcomes with non-zero probability for `μ'` and `μ`.
    4.  `h : ∀ b ∈ μ'.support, μ' b = μ (f ⟨b, _⟩)`: The probability of an outcome `b` under `μ'` is the same as the probability of its corresponding outcome `f ⟨b, _⟩` under `μ`.

-   **Goal**: The theorem aims to prove the entailment `𝑪_ μ K ⊢ 𝑪_ μ' K'`, where `K'` is a new family of hyper-assertions defined as `fun b => K (f ⟨b, sorry⟩)`. This means that if `𝑪_ μ K` holds for some resource, then `𝑪_ μ' K'` must also hold for that same resource. The `sorry` in the goal `K (f ⟨b, sorry⟩)` should be replaced by a proof that `b ∈ μ'.support`, which will become available from the context when unfolding the definition of `𝑪_ μ'`.

### Context

This theorem is one of several fundamental properties of the `jointCondition` modality (`𝑪_`), which is a core concept in the logic being formalized. These properties, such as `C_assoc`, `C_and`, `C_exists`, etc., establish how `𝑪_` interacts with other logical connectives and are crucial for reasoning about probabilistic programs.

`C_transfer` is particularly important as it shows that the logic is invariant under relabeling of outcomes, as long as the probabilistic structure is preserved. This is analogous to a change-of-variables formula for integrals or re-indexing of sums. It connects the abstract logic of `𝑪_` to the concrete properties of the underlying `PMF`s from `mathlib`, and its proof will likely rely on properties of summation over `PMF.support` and measure binding (`Measure.bind`).

### Proof Suggestion

1.  **Unfold definitions**: Start by unfolding the definitions of entailment (`⊢`) and `jointCondition` (`𝑪_`).
    ```lean
    intro a ha
    unfold jointCondition at ha ⊢
    simp_rw [Set.mem_setOf_eq] at ha ⊢
    ```

2.  **Deconstruct the hypothesis**: The hypothesis `ha` states the existence of witnesses `P`, `p`, `h`, and `κ` for `𝑪_ μ K`. Use `rcases ha with ⟨P, p, h_compat, κ, h_incl, h_μ, h_K⟩` to bring these into the context.

3.  **Construct new witnesses for the goal**: The goal is also an existential statement. You need to provide new witnesses for `𝑪_ μ'`. You can reuse `P`, `p`, and `h_compat`. The main task is to define a new kernel `κ' : (i : I) → β' → Measure (α → V)` based on the existing kernel `κ`. A good choice is:
    ```lean
    let κ' (i : I) (b' : β') : Measure _ :=
      dite (b' ∈ μ'.support) (fun hb' => κ i (f ⟨b', hb'⟩)) (fun _ => 0)
    ```
    This defines `κ' i b'` by transferring `b'` to an outcome in `μ.support` via `f` and then applying `κ`. It's defined to be the zero measure for outcomes outside the support of `μ'`.

4.  **Prove the three conjuncts for the goal**:
    *   **Inclusion**: The first part of the goal is to show that the resource constructed from `P` and `p` is included in `a`. This is exactly the hypothesis `h_incl` you obtained from `ha`.
    *   **Measure factorization**: The second part is to prove `∀ i, (P i).μ = μ'.toMeasure.bind (κ' i)`.
        -   You know from `h_μ` that `(P i).μ = μ.toMeasure.bind (κ i)`.
        -   The proof reduces to showing `μ.toMeasure.bind (κ i) = μ'.toMeasure.bind (κ' i)`.
        -   Use `PMF.toMeasure_bind` to rewrite both sides as a `tsum` (`∑'`). The equality will look like `∑' v, (μ v) • κ i v = ∑' b', (μ' b') • κ' i b'`.
        -   Use the definition of `κ'`, the hypothesis `h`, and the fact that `f` is an `Equiv` between the supports to show the sums are equal. You might find `tsum_equiv` useful for re-indexing the sum.
    *   **Hyperassertion validity**: The third part is `∀ b' ∈ μ'.support, K (f ⟨b', hb'⟩) (...)`.
        -   Introduce `b'` and `hb' : b' ∈ μ'.support`.
        -   Let `v := f ⟨b', hb'⟩`. From the type of `f`, you know `v.1 ∈ μ.support`.
        -   You can now apply your hypothesis `h_K` to `v.1`, which gives you `h_K v.1 v.2 : K v.1 (...)`.
        -   The goal is to show that the resource argument passed to `K` in your goal is definitionally equal to the one in `h_K v.1 v.2`.
        -   This will follow because `κ' j b' = κ j (f ⟨b', hb'⟩) = κ j v.1` by the definition of `κ'`.
        -   Note that the definition of `jointCondition` has a `sorry` for proving `IsProbabilityMeasure` for the kernel-derived measures. You will need to use `sorry` for this part in your proof as well, which is expected.
        -   The `sorry` in `K (f ⟨b, sorry⟩)` from the theorem statement should be filled by `hb'`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/Logic/JointCondition.lean#L150)

**Code Snippet:**
```lean
theorem C_transfer {β' : Type*} [MeasurableSpace β'] {μ' : PMF β'}
    (f : μ'.support ≃ μ.support)
    (h : ∀ b, (hb : b ∈ μ'.support) → μ' b = μ (f ⟨b, hb⟩).1) :
      𝑪_ μ K ⊢ 𝑪_ μ' (fun b => K (f ⟨b, sorry⟩)) := by
  sorry

```
